US08030334B2
A flask is charged with 5-formyl-2-methylsulfanyl-benzonitrile (1.0 g, 5.68 mmol) in MeOH (20 mL) and cooled to 0° C. Sodium borohydride (1.07 g, 28.40 mmol) is added and the mixture is stirred at room temperature for 2 h, followed by removal of solvent in vacuo. The residue is re-dissolved in dichloromethane and washed with water twice. The organic layer is dried over sodium sulfate and concentrated in vacuo to afford 5-hydroxymethyl-2-methylsulfanyl-benzonitrile as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.57 (s, 3H), 4.70 (d, J=5.1 Hz, 2H), 7.33 (d, J=8.3 Hz, 1H), 7.53 (dd, J=8.3, 1.0 Hz, 1H), 7.62 (s, 1H).

reactant | 5-formyl-2-methylsulfanyl-benzonitrile | 5.68 mmol, 1.0 g | C(=O)C=1C=CC(=C(C#N)C1)SC | C9H7NOS
reactant | Sodium borohydride | 28.40 mmol, 1.07 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 5-hydroxymethyl-2-methylsulfanyl-benzonitrile | OCC=1C=CC(=C(C#N)C1)SC | C9H9NOS
